US07655679B2
700 mg 4-(2-Amino-ethyl)-benzonitrile and 63 μl Butyraldehyde were dissolved in 20 ml methanol. 1.0 g molecular sieves 4 Angström were added the mixture was stirred at room temperature for two hours. Then 270 mg sodium borohydride were added and the mixture was stirred for an additional hour at room temperature. 100 ml ethyl acetate were added, and the reaction was quenched by addition of 1 ml water. The reaction mixture was filtered through a pad of celite and MgSO4. The filtrate was evaporated in vacuo to provide 750 mg crude 4-(2-Butylamino-ethyl)-benzonitrile. This material was used without further purification.

reactant | 4-(2-Amino-ethyl)-benzonitrile | 700 mg | NCCC1=CC=C(C#N)C=C1 | C9H10N2
reactant | Butyraldehyde | 63 μl | C(CCC)=O | C4H8O
reactant | sodium borohydride | 270 mg | [BH4-].[Na+]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 20 ml | CO | CH4O
product | 4-(2-Butylamino-ethyl)-benzonitrile | 750 mg | C(CCC)NCCC1=CC=C(C#N)C=C1 | C13H18N2
